2164-11-23 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2164-11-22**] 11:45 PM
 EKG - At [**2164-11-23**] 12:31 AM
 EKG - At [**2164-11-23**] 01:05 AM
   EKGs showing ST elevations in lead III
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2164-11-23**] 01:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-23**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 89 (88 - 118) bpm
   BP: 86/51(58) {79/39(47) - 100/54(66)} mmHg
   RR: 21 (21 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                     18 mL
                                                                    254 mL
   PO:
             TF:
   IVF:
                                                                     18 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    450 mL
   Urine:
   450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   GENERAL: Morbidly obese male tachypnic and diaphoretic.  . Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: Muffled heart sounds, difficult to asuclatate.
   LUNGS: Decreased breath sounds on left to mid lung fiel, rales up to
   apex, on right decreased breath sounds at baxe, and rales [**12-8**] way up.
   ABDOMEN: Obese with pronouced panus.  , Soft, NTND. No HSM or
   tenderness. Abd aorta not palpated. No abdominial bruits.
   EXTREMITIES: Marked stasis dermatitis b/l.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
   Labs / Radiology
   361 K/uL
   10.6 g/dL
   227 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.8 mEq/L
   25 mg/dL
   101 mEq/L
   137 mEq/L
   31.1 %
   12.2 K/uL
        [image002.jpg]
                            [**2164-11-23**]  12:33 AM
                            [**2164-11-23**]  12:59 AM
   WBC
   10.4
   12.2
   Hct
   31.5
   31.1
   Plt
   305
   361
   Cr
   1.3
   TropT
   0.10
   Glucose
   227
   Other labs: PT / PTT / INR:17.1/97.7/1.5, CK / CKMB /
   Troponin-T:72//0.10, ALT / AST:91/72, Alk Phos / T Bili:92/0.9,
   Albumin:3.0 g/dL, LDH:224 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   Patient is a 69 year old morbidly obese male with a hx of DM, HTN,
   dyslipidemia, CAD presenting with decombensated heart failure and
   possible ACS vs. PE.
   .
   # CORONARIES:  While the patient only reports a history of anginal
   pain, EKG with evidence of prior anteroseptal infarct.  This would
   remain consistent with new finding of reduced EF to 20% on recent TTE.
   He has no current complaints of chest pain, although he is a diabetic.
   EKG concerning for a STEMI.  With elevation only limited to a single
   lead, cardiac catheterization was deffered.  Had mild troponin
   elevation, but normal CK at the OSH.  Will keep NPO, but likely not ACS
   precipitating HF, but more HF causing increased heart strain while with
   ST and on dobutamine.
   -- ween off dobutamine and repeat EKG, follow serially
   -- cycle enzymes
   -- cont ASA, plavix, and heparin
   -- cont high dose statin
   -- start integrillin
   -- hold metoprolol in the setting of decompensated heart failure
   -- avoid nitrates with concern of IMI
   -- will cont to consider cardiac cath based on serial EKGs and cardiac
   markers
   .
   # PUMP:  Precipitous events of decompensated HF not particularly
   clear.  Recent chest pain, new TTE findings, and q-waves on EKG
   concerning for recent MI with worsening heart failure.  Cannot rule out
   possiblity of PE with exudate effusion.  Patient with elevated JVP,
   marked pulmonary edema/effusions, elevated BNP.  Unclear if there is an
   acute event that has worsened dysnpea, heart failure.
   - IV lasix gtt for diuresis
   - hold beta-blocker in the setting of decompensated HF
   - cont home lisinopril
   - TTE in AM
   .
   # RHYTHM:  Sinus tachycarida.  Likely secondary to decopensated heart
   failure, hypoxia.  Cannot rule out pulmonary embolis.  Will continue to
   treat these potential underlying causes.
   .
   # Pulmonary Effusion:  Most likely secondary to heart failure.
   However, it is unexpected that protein ratio more consistent with
   exudateive process.  No symptoms to suggest pneumonia.  PE also
   possible cause, which would unify right axis shift, hypoxia, and ST in
   this obese patient.
   - f/u lab studies from OSH
   - cont heparin gtt
   - LENI in am
   - diureisis as described above
   .
   # Diabetes:  Holding home glyburide and will start on lantus + sliding
   scale while in patient.
   - check Hbg a1c
   .
   # Hypothyroidism:  cont home sythroid.
   .
   FEN:  NPO for now
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic heparin
   -Pain managment with tylenol
   -Bowel regimen with colace
   CODE: Presumed full
   DISPO: CCU

2164-11-24 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: HF, ACS vs. PE
   24 Hour Events:
   Given significant HF, cath was delayed to Monday, until pt. would be
   diuresed.  Started on lasix gtt for UOP 100-150cc/hr, but only -500cc
   at midnight.  Given concern for ACS and PE, continued pt on heparin
   gtt.  CXR showed HF w/ L effusion.  LENIs were neg b/l prelim read.
   Per OSH report thoracentesis showing exudative effusion w/ LDH of 247,
   tot prot 3.9, 20K rbcs, 5950 WBCs w/ 76% PMNs.  Prelim Cx negative,
   gram stain w/ PMNs and no organisms. Cytology negative for malignant
   cells.  ECHO showed 15-20% EF, w/ nearly global hypokinesis, inf.
   akinesis, significant AS, PAH 46.  TSH pending.  Pt. OOB to chair,
   improved dyspnea at rest, but continues to be DOE w/ movement.   Gave
   dose of metoprolol 12.5mg for tachycardia to 110s and demand ischemia.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,400 units/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-24**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 92 (79 - 111) bpm
   BP: 99/37(52) {83/20(44) - 116/72(79)} mmHg
   RR: 23 (20 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
     Tele 100-110s when awake
   80-90s asleep, multiple PVCs,
   Total In:
                                                                  1,166 mL
                                                                    276 mL
   PO:
                                                                    320 mL
                                                                     75 mL
   TF:
   IVF:
                                                                    846 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    670 mL
   Urine:
                                                                  1,815 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -649 mL
                                                                   -394 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   Physical Examination
   GENERAL: Morbidly obese male tachypnic and diaphoretic.  . Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 9 cm.
   CARDIAC: Muffled heart sounds, difficult to asuclatate.  2/6 SEM at
   RUSB, early peaking, S1 and S2 clearly heard.
   LUNGS: Decreased breath sounds on L, crackles on L, CTA on R, no w/r.
   ABDOMEN: Obese with pronouced panus.  , Soft, NTND. Abd aorta not
   palpated.
   EXTREMITIES: Marked stasis dermatitis b/l, marked lymphedema b/l.  L
   heel skin breakdown, dressed, dry..
   PULSES:  dopplerable:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
   Labs / Radiology
   WBC/HCT/Pltlt 11.9/29.1/337  Chem 7 Na/K/CL/Bicarb/BUN/Cr/Glu
   139/3.6/104/25/23/1.1/140
   CK 89, Trop 0.15 both decreased from [**11-23**].
   Ca: 8.1 Mg: 2.1 P: 3.4
   PT: 16.3
   PTT: 84.6
   INR: 1.5
   OSH Pleural effusion results:
   20K RBCs, 5950 WBCs, 75% PMNs, Glu 108, LDH 247, Tot prot 3.9.
   Gram stain
 no organisms, > 25 PMNs
   Cytology
 negative for malignant cells.
   TTE: global left ventricular hypokinesis, with near-akinesis of the
   inferior wall (LVEF = 15-20%), most consistent with multivessel
   coronary artery disease. The right ventricular cavity is mildly dilated
   with mild global free wall hypokinesis.  Mild MR, trivial pericardial
   effusion.
                            [**2164-11-23**]  12:33 AM
                            [**2164-11-23**]  12:59 AM
                            [**2164-11-23**]  06:16 AM
                            [**2164-11-23**]  03:27 PM
   WBC
   10.4
   12.2
   13.6
   Hct
   31.5
   31.1
   29.4
   Plt
   [**Telephone/Fax (3) 3375**]
   Cr
   1.3
   1.3
   TropT
   0.10
   0.15
   0.17
   Glucose
   227
   180
   Assessment and Plan
   Patient is a 69 year old morbidly obese male with a hx of DM, HTN,
   dyslipidemia, CAD presenting with decombensated heart failure and
   likely demand ischemia.
   .
   # CORONARIES:  ECG R sided pattern of demand ischemia.  Lead I STd not
   consistent w/ PE.  CKs are flat.  Pt. is significantly volume
   overloaded, continues to require oxygen, improved w/ diuresis.  Pt.
   continues to remain at high risk for PE given wt, sedentary lifestyle
   and relative immobility.  Pt. tolerated bbk well.
   -- will defer cath given flat enzymes.
   -- cont ASA, plavix, and heparin and will transition to warfarin given
   high risk for PE (per discussion w/ Dr. [**Last Name (STitle) 2830**]
   -- cont high dose statin
   -- continue metoprolol given tachycardia and suspected demand
   -- avoid nitrates with concern of past IMI
   .
   # Pulmonary Effusion: Consistent w/ peri-pneumonic effusion.
   Differential includes PNA as most likely, malignancy or PE/heart
   failure which are less likely given exudative effusion.   Pt. w/
   effusion on CXR yest, unable to visualize posterior cardiac parenchyma,
   consolidation may be harboured there.  No hx consistent w/ PNA.  LENIs
   negative, but this has poor predictive value.   PE remains on
   differential, but pt is currently being treated.  Will evaluate further
   if no improvement in sx w/ diuresis and PNA tx.
   - f/u updated lab studies from OSH
   - obtain BCx
   - Repeat CXR in am
   - Start levofloxacin for CAP given effusion results
   - diureisis as below
   # PUMP:  HF likely related to possible recent MI consistent w/ recent
   chest pain, TTE findings, and q-waves on EKG concerning for recent MI
   with worsening heart failure.  Patient with elevated JVP, marked
   pulmonary edema/effusions, elevated BNP.  Pt. on lasix gtt w/ output
   only of -1L o/n on  15mg of lasix gtt and decreasing UOP.
   - IV lasix gtt for diuresis, will add metolazone
   - continue w/ beta-blocker to improve filling
   - holding Lisinopril due to hypotension
   .
   # RHYTHM:  Sinus tachycardia.  Likely secondary to decompensated heart
   failure, hypoxia.  Cannot rule out pulmonary embolis.
 Metoprolol
   12.5 [**Hospital1 **] and treating CHF.
   .
   .
   # Diabetes:  On Lantus 10 units qday and insulin sliding scale, holding
   glyburide, Goal BG < 150.
   .- increase lantus to 14U
   # Hypothyroidism:  cont home synthroid.
   .
   FEN:  cardiac diet since no cath this morning
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic heparin
   -Pain managment with tylenol
   -Bowel regimen with colace
   CODE: Full; ICU consent signed
   DISPO: CCU, pending further diuresis.

2164-11-25 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 69 year old morbidly obese male with a hx of DM, HTN,
   dyslipidemia, CAD presenting with decombensated heart failure and
   likely demand ischemia.
   24 Hour Events:
   The patient was started continued on a heparin gtt and started on
   coumadin given his high risk for PE (per Dr. [**Last Name (STitle) 2830**].  The pleural
   effusion is thought to be peri-pneumonic, however a PPD was placed as
   TB is a possibility.  BCx, UCx, and UA were sent given low grade
   fever.  Levofloxacin 750 mg x5 days was started for PNA.  His lantus
   was increased to 14 units for better blood sugar control.  The lasix
   gtt was continued for diuresis and metolazone 5 mg daily was added.
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2164-11-24**] 09:00 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2164-11-24**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-11-25**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 92 (81 - 111) bpm
   BP: 91/57(64) {77/32(31) - 104/63(70)} mmHg
   RR: 24 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,260 mL
                                                                    255 mL
   PO:
                                                                    435 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    825 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  4,270 mL
                                                                    850 mL
   Urine:
                                                                  4,270 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,010 mL
                                                                   -595 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   GENERAL: Morbidly obese male tachypnic and diaphoretic.  . Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 9 cm.
   CARDIAC: Muffled heart sounds, difficult to asuclatate.  2/6 SEM at
   RUSB, early peaking, S1 and S2 clearly heard.
   LUNGS: Decreased breath sounds on L, crackles on L, CTA on R, no w/r.
   ABDOMEN: Obese with pronouced panus.  , Soft, NTND. Abd aorta not
   palpated.
   EXTREMITIES: Marked stasis dermatitis b/l, marked lymphedema b/l.  L
   heel skin breakdown, dressed, dry..
   PULSES:  dopplerable:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
   Labs / Radiology
   337 K/uL
   9.9 g/dL
   121 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.9 mEq/L
   27 mg/dL
   97 mEq/L
   137 mEq/L
   29.1 %
   11.9 K/uL
        [image002.jpg]
                            [**2164-11-23**]  12:33 AM
                            [**2164-11-23**]  12:59 AM
                            [**2164-11-23**]  06:16 AM
                            [**2164-11-23**]  03:27 PM
                            [**2164-11-24**]  05:21 AM
                            [**2164-11-24**]  06:33 PM
   WBC
   10.4
   12.2
   13.6
   11.9
   Hct
   31.5
   31.1
   29.4
   29.1
   Plt
   [**Telephone/Fax (3) 3387**]37
   Cr
   1.3
   1.3
   1.1
   1.3
   TropT
   0.10
   0.15
   0.17
   0.15
   Glucose
   227
   180
   140
   121
   Other labs: PT / PTT / INR:16.3/51.6/1.5, CK / CKMB /
   Troponin-T:89/6/0.15, ALT / AST:91/72, Alk Phos / T Bili:92/0.9,
   Albumin:3.0 g/dL, LDH:224 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.4
   mg/dL
   [**11-24**] BCx [**12-7**]  grew gram positive cocci in chains (recorded as from a
   left hand PIV)
   Assessment and Plan
   Patient is a 69 year old morbidly obese male with a hx of DM, HTN,
   dyslipidemia, CAD presenting with decombensated heart failure and
   likely demand ischemia.
   .
   # CORONARIES:  ECG R sided pattern of demand ischemia.  Lead I STd not
   consistent w/ PE.  CKs are flat.  Pt. is significantly volume
   overloaded, continues to require oxygen, improved w/ diuresis.  Pt.
   continues to remain at high risk for PE given wt, sedentary lifestyle
   and relative immobility.  Pt. tolerated bbk well.
   -- will defer cath given flat enzymes.
   -- cont ASA, plavix, and heparin and will transition to warfarin given
   high risk for PE (per discussion w/ Dr. [**Last Name (STitle) 2830**]
   -- cont high dose statin
   -- continue metoprolol given tachycardia and suspected demand
   -- avoid nitrates with concern of past IMI
   .
   # Pulmonary Effusion: Consistent w/ peri-pneumonic effusion.
   Differential includes PNA as most likely, malignancy or PE/heart
   failure which are less likely given exudative effusion.   Pt. w/
   effusion on CXR yest, unable to visualize posterior cardiac parenchyma,
   consolidation may be harboured there.  No hx consistent w/ PNA.  LENIs
   negative, but this has poor predictive value.   PE remains on
   differential, but pt is currently being treated.  Will evaluate further
   if no improvement in sx w/ diuresis and PNA tx.
   - f/u updated lab studies from OSH
   - obtain BCx
   - Repeat CXR in am
   - Start levofloxacin for CAP given effusion results
   - diureisis as below
   # PUMP:  HF likely related to possible recent MI consistent w/ recent
   chest pain, TTE findings, and q-waves on EKG concerning for recent MI
   with worsening heart failure.  Patient with elevated JVP, marked
   pulmonary edema/effusions, elevated BNP.  Pt. on lasix gtt w/ output
   only of -1L o/n on  15mg of lasix gtt and decreasing UOP.
   - IV lasix gtt for diuresis, will add metolazone
   - continue w/ beta-blocker to improve filling
   - holding Lisinopril due to hypotension
   .
   # RHYTHM:  Sinus tachycardia.  Likely secondary to decompensated heart
   failure, hypoxia.  Cannot rule out pulmonary embolis.
 Metoprolol
   12.5 [**Hospital1 **] and treating CHF.
   .
   .
   # Diabetes:  On Lantus 10 units qday and insulin sliding scale, holding
   glyburide, Goal BG < 150.
   .- increase lantus to 14U
   # Hypothyroidism:  cont home synthroid.
   .
   FEN:  cardiac diet since no cath this morning
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic heparin
   -Pain managment with tylenol
   -Bowel regimen with colace
   CODE: Full; ICU consent signed
   DISPO: CCU, pending further diuresis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-11-22**] 11:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-11-26 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   69 year old morbidly obese male with a hx of DM, HTN, dyslipidemia, CAD
   presenting with decombensated heart failure and likely demand
   ischemia.
   24 Hour Events:
   Continued diuresis with Lasix gtt and Metolazone.  Got Chest CT
   (with mucomyst) to assess for malignancy and further characterize
   parapneumonic effusion.  CT showed 3 loculated effusions in left lobe.
   Aspirin changed to 81mg.  Pt had blood culture from [**11-24**] PIV which
   grew Bacillus species, not anthrax.  This was originally mis-reported
   as GPC in chains and pt was started on Vanco, then stopped after
   results changed to GPRs.  ID curbside --> likely contaminate.  No abxs
   started.  Per PICC line team, will not place bedside PICC.  Pt is NPO
   for possible IR PICC placement.  Lasix gtt increased from 2 to 5 for
   diuresis.  Pt had large bowel movement.  Pt. w/ nonproductive cough
   o/n.  Denies CP, SOB at rest, DOE w/ transfers from bed to chair has
   improved.
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2164-11-25**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Heparin Sodium - 2,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies wt. loss, melena, hematochezia.
   Flowsheet Data as of  [**2164-11-26**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 74 (74 - 106) bpm
   BP: 95/62(70) {57/30(44) - 102/64(84)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   HR in 100s most of the day, 80-90s nighttime.
   Paired PVCs nearly Q10min
   LOS i/o - -5.9L
   Total In:
                                                                  1,482 mL
                                                                    253 mL
   PO:
                                                                    760 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    722 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  3,185 mL
                                                                    800 mL
   Urine:
                                                                  3,185 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,703 mL
                                                                   -547 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   GENERAL: Morbidly obese male tachypnic and diaphoretic.  . Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 9 cm.
   CARDIAC: Muffled heart sounds, difficult to ascultate.  2/6 SEM at
   RUSB, early peaking, S1 and S2 clearly heard.
   LUNGS: Decreased breath sounds on L, crackles on L >> R
   ABDOMEN: Obese.  , Soft, NTND. Abd aorta not palpated.
   EXTREMITIES: Marked stasis dermatitis b/l, marked lymphedema b/l.  L
   heel skin breakdown slightly increased from [**11-23**], dressed, dry
   PULSES:  dopplerable:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1
   Labs / Radiology
   352 K/uL
   10.0 g/dL
   143 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.7 mEq/L
   28 mg/dL
   94 mEq/L
   134 mEq/L
   28.4 %
   11.2 K/uL
        [image002.jpg]
                            [**2164-11-23**]  12:33 AM
                            [**2164-11-23**]  12:59 AM
                            [**2164-11-23**]  06:16 AM
                            [**2164-11-23**]  03:27 PM
                            [**2164-11-24**]  05:21 AM
                            [**2164-11-24**]  06:33 PM
                            [**2164-11-25**]  05:36 AM
                            [**2164-11-25**]  03:21 PM
                            [**2164-11-26**]  05:00 AM
   WBC
   10.4
   12.2
   13.6
   11.9
   10.0
   11.2
   Hct
   31.5
   31.1
   29.4
   29.1
   28.6
   28.4
   Plt
   [**Telephone/Fax (2) 3410**]
   Cr
   1.3
   1.3
   1.1
   1.3
   1.2
   1.3
   1.3
   TropT
   0.10
   0.15
   0.17
   0.15
   0.18
   Glucose
   227
   180
   140
   121
   115
   136
   143
   Other labs: PT / PTT / INR:17.9/78.4/1.6,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Labs from [**Location (un) 196**] of pleural effusion (in chart as well):
   cloudy, 5950 WBCs, 20,000 RBCs, 76% N, 21% L, 2% Monos, glucose 108,
   LDH 247, Tot Prot 3.9
   gram stain > 25 WBCs, no organisms.  No growth on culture after 2 days
   ([**2164-11-25**])
   cytology negative
   Chest CT [**2164-11-25**]:
   1. Loculated left pleural effusion with three components.  Trace right
   pleural effusion.
   2. Scattered patchy airspace opacities bilaterally, which may be
   infectious or inflammatory in nature, with mediastinal lymphadenopathy,
   recommend follow-up CT after treatment and resolution of acute
   symptomatology to establish improvement or resolution.
   3. Cardiomegaly with atherosclerosis involving the coronary arteries.
   4. Cholelithiasis
   Assessment and Plan
   Patient is a 69 year old morbidly obese male with a hx of DM, HTN,
   dyslipidemia, CAD presenting with decompensated heart failure and
   likely demand ischemia.
   .
   # CORONARIES:  ECGs consistent with demand ischemia and enzymes flat.
   Cath deferred at this time.  Patient has been chest pain free.
   -- d/c Plavix as not currently ACS
   -- Continue ASA 81
   -- continue heparin and transition to Coumadin given high risk for PE;
   will likely need life-long coumadin due to body habitus
   -- cont high dose statin
   -- continue metoprolol given tachycardia and suspected demand;
   currently tolerating 12.5mg PO BID
   .
   # Pulmonary Effusion.  Multiloculated, consistent w/ peri-pneumonic
   effusion.  CT consistent w/ multifocal opacities, but source is still
   unclear as no aspiration, possibly atypical infection, being covered w/
   Levofloxacin.  Mediastinal [**Doctor First Name **] reactive vs. malignant.   Differential
   includes PNA as most likely or malignancy, vs PE/heart failure which
   are less likely given exudative effusion.  No hx consistent w/ PNA.
   LENIs negative, but this has poor predictive value.   PE remains on
   differential.  PPD negative at 48hrs.
   - f/u updated lab studies from OSH daily
   - follow-up PPD @ 72hrs for ?TB
   - Levofloxacin for 5 day course (day #1 = [**2164-11-24**]); today is day 3 of
   5.
   - diureisis as below
   - treat for PE with heparin and Coumadin
   - pt may require bronch once HF improves and Tx of PNA complete.
   - F/U Cx data
   # PUMP:  HF likely related to ischemic cardiomyopathy of unclear
   precipitating factors.  Possibly he had recent ischemic event.  Patient
   with elevated JVP, marked pulmonary effusions.  Urine output improved
   on Lasix gtt and Metolazone.   Hypoxia continues to improve.
   - continue Lasix gtt and Metolazone for diuresis with goal -1 to 2
   liters today
   - f/u PM lytes
   - continue w/ beta-blocker to improve filling
   - holding Lisinopril due to hypotension
   .
   # RHYTHM:  Sinus tachycardia.  Likely secondary to decompensated heart
   failure, hypoxia.  Cannot rule out pulmonary embolis.
 Metoprolol
   12.5 [**Hospital1 **], continue to tx as above w/ heparin/coumadin
   .
   # GPRs in blood: from peripheral IV; likely contaminate
   - will hold off on antibiotics until further speciation; surveillance
   cultures drawn today
   - f/u blood culture speciation
   # Anemia.  Normocytic.  TSH wnl.  HCT not improving w/ diuresis.
   Baseline unknown.  Will complete w/up.
   -          Fe studies,
   -          Guiac all stools
   -          B12, Folate.
   -          Will consider SPEP/UPEP if above not revealing give RF, but
   low suspicion for MM.
   # Diabetes:  On Lantus 14 units qday and insulin sliding scale, holding
   glyburide, Goal BG < 150, FS < 140 mostly, but increased at AM.
   - f/u blood sugars today and will increase Lantus
   # Hypothyroidism:  cont home synthroid.
   .
   FEN:  cardiac diet since no cath this morning
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic heparin
   -Pain managment with tylenol
   -Bowel regimen with colace; will give Senna and Bisacodyl (last BM
   [**2164-11-23**])
   CODE: Full; ICU consent signed
   DISPO: CCU for now, possibly to floor in afternoon if BPs >80s.
   ------ Protected Section ------
   Addendum:
   # LLE edema and skin breakdown.  Continues to have ulcerated posterior
   aspect in setting of chronic venous stasis and lymphedema.
   - Wound consult
   - Vascular consult.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3413**] [**Name8 (MD) 3048**], MD
   on:[**2164-11-26**] 12:13 ------